US06337305B1
Methyl 2-[2,3-dichloro-4-([3-chloro-5-trifluoromethylpyridin-2-yl]methyl)phenoxy]acetate
At 23° C., 2.0 g of 3-chloro-2-(2,3-dichloro-4-hydroxybenzyl)-5-trifluoromethylpyridine, 1.5 g of anhydrous potassium carbonate and 1.0 g of methyl bromoacetate were stirred in 60 ml of anhydrous dimethylformamide for 16 hours. The reaction mixture was then poured into 400 ml of ice-water. The resulting solid product was separated off, washed with water and purified by stirring in n-hexane. Yield: 2.4 g (100%; white crystals); mp.: 110-111° C.

reactant | 3-chloro-2-(2,3-dichloro-4-hydroxybenzyl)-5-trifluoromethylpyridine | 2.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)CC1=C(C(=C(C=C1)O)Cl)Cl | C13H7Cl3F3NO
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 1.0 g | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | Methyl 2-[2,3-dichloro-4-([3-chloro-5-trifluoromethylpyridin-2-yl]methyl)phenoxy]acetate | ClC1=C(OCC(=O)OC)C=CC(=C1Cl)CC1=NC=C(C=C1Cl)C(F)(F)F | C16H11Cl3F3NO3
